US09108986B2
To 10 ml of methylene chloride, 55.6 mg of a pentamethylcyclopentadienyl iridium(III) chloride dimer ([Cp*IrCl2]2), 16.7 mg of (R)-prolinamide and 15.6 mg of triethylamine were added, and the mixture was stirred under argon atmosphere at room temperature for about 30 minutes to give a catalyst-containing mixture. In 60 ml of methylene chloride, 1.00 g of 2-methylquinoline was dissolved, and a 1/10 amount of the catalyst-containing mixture (equivalent to 0.1 mol % as an iridium chloride dimer) was added. After cooling to −10° C., 8.4 ml of a mixed solvent of formic acid/triethylamine (molar ratio: 5/2) was added dropwise, and the mixture was stirred at the same temperature for 2 days to give 2-methyl-1,2,3,4-tetrahydroquinoline (degree of conversion: 67.4%). The R-enantiomer was in excess and the optical purity was 85.4% ee.

reactant | (R)-prolinamide | 16.7 mg | N1[C@@H](C(=O)N)CCC1 | C5H10N2O
reactant | triethylamine | 15.6 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methylquinoline | 1.00 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | formic acid triethylamine | C(=O)O.C(C)N(CC)CC
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | pentamethylcyclopentadienyl iridium(III) chloride | 55.6 mg | C[Ir-4](C1C=CC=C1)(C)(C)(C)(C)Cl
catalyst | iridium chloride | [Ir](Cl)(Cl)Cl
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-1,2,3,4-tetrahydroquinoline | 67.4% | CC1NC2=CC=CC=C2CC1 | C10H13N
